US06590115B2
N-Acetyl L-phenylalanine (S-11b)
A sample was treated with diazomethane to make the methyl ester before analysis. See Example 8 (N-acetyl phenylalanine methyl ester) for analytical details.

reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | N-acetyl phenylalanine methyl ester | COC([C@@H](NC(C)=O)CC1=CC=CC=C1)=O | C12H15NO3
product | N-Acetyl L-phenylalanine | C(C)(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C11H13NO3
